US04503050
To a mixture of 25 ml of methanol and 1.1 g (0.048 mole) of sodium was added 5.1 g (0.030 mole) of 4-amino-6-chloro-2-(n-propyl)pyrimidine, and the resulting mixture was heated at reflux for four days. The mixture was allowed to cool to about 20° C., at which time water and chloroform were added thereto. The layers were separated, and the aqueous layer was extracted with additional chloroform. The organic layers were combined, dried over magnesium sulfate, and evaporated to provide a residue. The residue was recrystallized from cyclohexane with treatment with decolorizing charcoal to provide white solid 4-amino-6-methoxy-2-(n-propyl)pyrimidine, m.p. 97°-99° C. The structural assignment was supported by nuclear magnetic resonance and infrared spectral analyses.

reactant | methanol | 25 ml | CO | CH4O
reactant | sodium | 0.048 mole, 1.1 g | [Na] | Na
reactant | 4-amino-6-chloro-2-(n-propyl)pyrimidine | 0.030 mole, 5.1 g | NC1=NC(=NC(=C1)Cl)CCC | C7H10ClN3
reactant | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-amino-6-methoxy-2-(n-propyl)pyrimidine | NC1=NC(=NC(=C1)OC)CCC | C8H13N3O
